US04180670
N-[α-(2-methoxyphenyl)benzyl]-4-pyridinamine
2.98 Grams (0.016 mole) of 4-benzylideneaminopyridine in 50 milliliters of dry ether were added dropwise to a stirred solution of 2-methoxyphenyl lithium (prepared from 0.03 mole of butyl lithium and 5.61 grams [0.03 mole] of o-bromoanisole) in a mixture of ether and hexane at 0° C. under nitrogen. The mixture was stirred at room temperature for 2 hours and then poured onto ice. The organic layer was separated and extracted with acid and the acid extracts were combined with the aqueous layer. The combined aqueous medium was basified with 5 N sodium hydroxide and extracted into dichloromethane. After drying over magnesium sulphate, the solvent was removed to leave a solid which yielded 2.3 grams of title compound, m.p. 143°-5° C. The product was converted into its hydrobromide salt, m.p. 196°-198° C., by solution in 2-propanol and addition of hydrogen bromide in dry ether.

reactant | 4-benzylideneaminopyridine | 0.016 mole | C(C1=CC=CC=C1)=NC1=CC=NC=C1 | C12H10N2
reactant | 2-methoxyphenyl lithium | 0.03 mole, 5.61 grams | COC1=C(C=CC=C1)[Li]
reactant | o-bromoanisole | 0.03 mole | BrC1=C(C=CC=C1)OC | C7H7BrO
solvent | ether | 50 milliliters | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | N-[α-(2-methoxyphenyl)benzyl]-4-pyridinamine | 2.3 grams | COC1=C(C=CC=C1)C(C1=CC=CC=C1)NC1=CC=NC=C1 | C19H18N2O
